US04496734
A mixture of 1.0 g (7.46 mmole) of 2-cyano-6-methoxypyridine, 0.37 g (4.48 mmole) of sodium acetate, 25 ml of acetic anhydride and about 1.0 g of Raney nickel was hydrogenated on a Paar apparatus for about 5.5 hours. The mixture was filtered, and then evaporated with warming in vacuo to provide 2-acetamidomethyl-6-methoxypyridine. The structural assignment was supported by infrared spectral analysis.

reactant | 2-cyano-6-methoxypyridine | 7.46 mmole, 1.0 g | C(#N)C1=NC(=CC=C1)OC | C7H6N2O
reactant | sodium acetate | 4.48 mmole, 0.37 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | Raney nickel | about 1.0 g | [Ni] | Ni
product | 2-acetamidomethyl-6-methoxypyridine | C(C)(=O)NCC1=NC(=CC=C1)OC | C9H12N2O2
